US08703771B2
Preparation of 1-[4-acetylpiperazin-1-yl)-N-(4-methyl-3-[(4-pyridin-3-ylpyrimidin-2-yl)amino]phenyl)-2,3-dihydro-1H-indene-5-carboxamide
N-(4-Methyl-3-[(4-pyridin-3-ylpyrimidin-2-yl)amino]phenyl)-1-piperazin-1-yl-2,3-dihydro-1H-indene-5-carboxamide tetrahydrochloride (100 mg, 0.15 mmol) was dissolved in DMF (2 mL), and triethylamine (101 mg, 1 mmol) was added followed by acetyl chloride (16 mg, 0.2 mmol) while being cooled in an ice bath. After being stirred for 20 minutes, the solution obtained was purified by high performance liquid chromatography at pH=10 to obtain 45 mg (55% yield) of the title compound. MS (+1)=548.27. 1HNMR (DMSO-d6, ppm): δ 10.15 (s, 1H); 9.26 (s, 1H); 8.99 (s, 1H); 8.66 (d, J=4.8 Hz, 1H); 8.49 (d, J=5.2 Hz, 1H); 8.45 (d, J=8.4 Hz); 8.05 (s, 1H); 7.79 (s, 1H); 7.76 (d, J=8.0 Hz, 1H); 7.50 (dd, J=8.0 & 4.8 Hz, 1H); 4.37 (t, J=7.0 Hz, 1H); 3.42 (m, 1H); 3.40 (m, 3H); 2.91 (m, 1H); 2.83 (m, 1H); 2.2-2.5 (m, 4H); 2.20 (s, 3H); 2.06 (m, 2H); 1.95 (s, 3H).

reactant | N-(4-Methyl-3-[(4-pyridin-3-ylpyrimidin-2-yl)amino]phenyl)-1-piperazin-1-yl-2,3-dihydro-1H-indene-5-carboxamide tetrahydrochloride | 0.15 mmol, 100 mg | Cl.Cl.Cl.Cl.CC1=C(C=C(C=C1)NC(=O)C=1C=C2CCC(C2=CC1)N1CCNCC1)NC1=NC=CC(=N1)C=1C=NC=CC1
reactant | triethylamine | 1 mmol, 101 mg | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.2 mmol, 16 mg | C(C)(=O)Cl | C2H3ClO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-[4-acetylpiperazin-1-yl)-N-(4-methyl-3-[(4-pyridin-3-ylpyrimidin-2-yl)amino]phenyl)-2,3-dihydro-1H-indene-5-carboxamide | 45 mg, 55% yield | C(C)(=O)N1CCN(CC1)C1CCC2=CC(=CC=C12)C(=O)NC1=CC(=C(C=C1)C)NC1=NC=CC(=N1)C=1C=NC=CC1 | C32H33N7O2
